Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___               Sex:   M
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"I was feeling suicidal."
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Per Dr. ___ ___ consult note:
"Patient is a ___ year old man with a self-reported history of
depression who presents to the ___ ED via ___ Police on a ___ after reporting suicidal
ideation with multiple potential plans to ___ (___) staff. Psychiatry is consulted to perform a 
safety
assessment and assist with dispo planning.

During interview the patient reports a life-long history of
depression with recent decline over the last two months. He
reports onset of passive suicidal ideation two months ago which
began with feeling that he "just didn't want to be here anymore"
which worsened over time. Last week (~4d ago) he developed 
active
suicidal thoughts without specific plan or active intent. The
night prior to presentation he considered attempting suicide. He
states: "if I had a gun I would've shot myself" and "I looked
around for something to hang myself from but couldn't find
anything." He did not attempt to harm himself which he reports 
is
due to "not finding any way to do it." On the day of 
presentation
he presented to ___ because "that's what they tell you to do
if you're struggling" and was then transferred to ___.

In addition to suicidal ideation the patient reports feeling
hopeless, helpless, and worthless; experiencing low energy;
impaired memory and concentration; amotivation; and decreased
appetite (he states he has not eaten in the 24hrs prior to
interview with this writer).

He denies a history of significantly increased energy and mood,
grandiosity, pressured speech, or decreased need for speech. He
denies a history of auditory or visual hallucinations, paranoia,
thought broadcasting, or thought insertion. He denies a history
of restrictive eating or use of diet pills."

Course in Emergency Department (including behavior, medications
given): Pt was observed in good behavioral control, calm and
cooperative with staff.  He received Nicorette gum and
hydroxyzine 50mg prn for anxiety about waiting in the ED. 

Per inpatient admission note dated ___ by Dr. ___ 
___:
"On admission to the inpatient unit, pt confirmed history above 
of
feeling increasingly depressed and suicidal.  He initially 
stated
that there weren't many clear stressors in his life that
precipitated his current episode, later stating "just the
unavoidability of being a young adult and not knowing what to do
with your life."  Reports experiencing some parental pressure,
but states that they're generally supportive.  Identifies 
reasons
for wanting to live as 1) wanting to finish a novel he's writing
about Nietzsche's 3 metamorphoses and 2) wanting to experience
"proper love."  He believes that he will be able to stay safe
while on the unit and agrees to notify staff if suicidal 
thoughts
increase.  Identifies goals for admission as not being suicidal,
learning how to cope with suicidality, and finding medications
that work."

 
Past Medical History:
Past psychiatric history:
- Hospitalizations: None
- Current treaters and treatment: Followed by psychiatric NP and
a therapist at ___. Patient does not recall their names and 
notes
he sees them about once per month (which he views as
infrequently).
- Medication and ECT trials:
     -- Zoloft: Two separate three month trials ___ years ago.
Patient experienced decreased libido, anorgasmia, and erectile
dysfunction while on the medication which led to him
self-discontinuing.
     -- Prozac: Currently prescribed for ~6 wks. Patient has
skipped dose for last two days. He reports decreased libido,
anorgasmia, and erectile dysfunction while on the medication.
- Self-injury: One history of suicide attempt via intentional
overdose ___ years ago. Patient did not report this attempt to
anyone and did not seek out treatment. He denies history of
non-suicidal self-injury.
- Access to weapons: Patient denies access to firearms.

Past medical history:
None
 
Social History:
Substance use history:
- Alcohol: Patient reports drinking ___ beers over the course
of a weekend. Denies daily use. Endorses blackouts but denies 
any
other problems from alcohol.
- Tobacco: Reports vaping daily; tobacco use since age ___, he
believes he vapes the equivalent of one pack of cigarettes per
day. Interested in quitting, but not currently a priority. Open
to NRT during admission.
- Illicits: 
  -- Marijuana: Has used in the past but denies recent use.
  -- Cocaine: Reports using two weeks ago which a friend offered
to him, he denies buying or seeking out cocaine.
  -- Illicit opiates: Denies
  -- Illicit benzodiazepines: Denies
  -- Stimulants: Patient reports using Adderall (not prescribed
for him) once in the past to help study for an exam.

Personal and Social History:
___
Family History:
Family psychiatric history:
- Sister: ___, depression. Prescribed Zoloft.
- Father: ___, anxiety. Prescribed Pristiq. Reportedly 
has
history of suicidal thoughts, unknown if he has attempted 
suicide
or been admitted psychiatrically.
- Maternal grandmother: ___ disorder, alcohol use disorder
- Maternal uncle: ___ disorder
- ___ grandfather: ___ use disorder
 
Physical Exam:
Physical Examination:
VS:  BP: 135/84  HR: 78  temp: 97.9  resp: 17 O2 sat: 99% RA 
Skin- warm and well perfused
HEENT- normocephalic, atraumatic, oropharynx clear
Lungs- CTAB, no wheezes, rales, or rhonchi
CV- RRR, S1 S2, no murmurs, rubs, gallops
Abdomen: normoactive bowel sounds, nontender
Extremities- moves all 4 
Neuro-
CN: 
      pupils symmetry and responsiveness to light and
accommodation: pupils symmetric and responsive to light and
accommodation
     EOM: intact
     facial sensation to light touch in all 3 divisions: intact
     facial symmetry on eye closure and smile: intact and no
asymmetry
     hearing bilaterally to rubbing fingers: intact
     phonation: normal
     head turning and shoulder shrug: normal bilaterally
     tongue: midline, no atrophy

Motor:
       Delt:C5  Bic:C6   Tri:C7   Wr ext:C6   Fing ext:C7
        IP:   Quad:    Hamst:   Dorsiflex:   ___:   Pl.flex

Sensation:
Coordination:
     Finger-nose-finger- intact, no dysmetria
     Heel to shin- intact
Gait/Romberg: Good initiation.  Narrow-based, normal stride and
arm swing. 

Neuropsychiatric Examination:
  *Appearance: well groomed, thin, bespectacled white male, bird
tattoo on right forearm, appears stated age
  Behavior: cooperative, pleasant
  *Mood and Affect: "depressed"/ blunted
  *Thought process: linear, goal-directed
  *Thought Content: +SI, no HI, AH, VH
  *Judgment and Insight: fair

Cognition: 
  Wakefulness/alertness: Awake, alert
 *Attention: Attentive to interview, accurately states months of
year backwards.
 *Orientation: Oriented to self, date, and location. States date
is ___ (date is actually ___.
 *Memory: Accurately registers ___ objects, recalls ___ objects
at 3min
 *Fund of knowledge: Appears average, accurately reports current
and two most recent US presidents
 Calculations: $2.75 = 11 quarters
 Abstraction: Interprets proverbs abstractly
 *Speech: Regular rate, rhythm, volume
 *Language: Fluent ___ speaker, no paraphasic errors

DISCHARGE MENTAL STATUS EXAM:

NEUROLOGIC
- Station and gait: normal station and gait
- Tone: normal
- Strength: moves all four limbs at least against gravity
- Abnormal Movements: no perceived tremors or adventitious
movements
- Cranial Nerves: grossly intact. appropriate eye tracking.

MENTAL STATUS:
- Appearance: age-appearing young man, sitting up wearing 
glasses
and hospital attire, in NAD
- Attitude/Behavior: calm, cooperative, engaged, answers
questions appropriately and makes good eye contact
- Mood: "good"
- Affect: euthymic, normal range of affect
- Speech: normal rate/rhythm, volume, tone, and amount
- Thought process: linear, goal-directed, future-oriented, no
loose associations or tangentiality
- Thought content: does not appear internally preoccupied, 
denies
SI/HI/AVH
- Judgment and Insight: fair/fair

COGNITION 
- Wakefulness/alertness: awake and alert
- Attention: not formally assessed today, but attentive to
interview
- Orientation: to self, place, date, and situation
- Memory: impaired to recent events on interview
- Language: fluent native ___ speaker
 
Pertinent Results:
___ 03:02PM BLOOD WBC-9.3 RBC-5.51 Hgb-15.1 Hct-49.4 MCV-90 
MCH-27.4 MCHC-30.6* RDW-14.5 RDWSD-47.3* Plt ___
___ 03:02PM BLOOD Glucose-90 UreaN-14 Creat-0.8 Na-141 
K-4.3 Cl-103 HCO3-24 AnGap-14
___ 08:08AM BLOOD ALT-13 AST-17 AlkPhos-61 TotBili-0.5
___ 07:30AM BLOOD VitB12-453 Folate-7
___ 08:08AM BLOOD %HbA1c-4.7 eAG-88
___ 08:08AM BLOOD Triglyc-111 HDL-61 CHOL/HD-3.0 
LDLcalc-103
___ 07:30AM BLOOD TSH-1.3
___ 07:30AM BLOOD Trep Ab-NEG
___ 03:02PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG
___ 04:05PM URINE Blood-NEG Nitrite-NEG Protein-TR* 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-7.0 Leuks-NEG
___ 04:05PM URINE bnzodzp-NEG barbitr-NEG opiates-NEG 
cocaine-NEG amphetm-NEG oxycodn-NEG mthdone-NEG
 
Brief Hospital Course:
1. LEGAL & SAFETY:  
Patient was admitted pursuant to a section 12b, which expired on 
___. He was also placed on 15 minute checks status on 
admission and remained on that level of 
observation throughout.

2. PSYCHIATRIC:
#)  ___ year old NEU student with a self-reported history of 
depression, 1 reported prior suicide attempt, no prior 
admissions, who presents to the ___ ED on a ___ after 
reporting suicidal ideation with multiple potential plans to NEU
Student Health Services (___).

Pt reports 2 months of worsening mood with passive SI with more 
recent development of active SI with multiple plans (including 
hanging self, shooting self with firearm, overdosing on pills), 
in s/o academic/developmental stressors. The patient has 
attempted to access resources and has been started on Prozac but 
his symptoms have continued to decline despite these efforts. He 
denies a history of symptoms consistent with mania, psychosis. 
Patient's presentation appears most consistent with acute 
episode of major depressive disorder. 

Treatment with bupropion 100mg PO BID was initiated on ___, and 
patient has tolerated this medication well without side effects. 
Home Prozac was discontinued, as the patient reported worsening 
of his symptoms on this medication. Since admission, suicidal 
thoughts and mood have improved significantly. Patient is now
presenting as future-oriented and engaged with 
treatment/disposition planning. He denies suicidal ideation.

3. SUBSTANCE USE DISORDERS:
#) Nicotine Use Disorder: Patient was counseled on cessation and 
offered TD nicotine patch daily for treatment of nicotine 
withdrawal during admission. He expressed intent to continue 
using nicotine vapes after discharge.

4. MEDICAL
#) Patient was medically cleared in the emergency room and has 
no acute or chronic medical issues requiring intervention during 
his hospital stay.

5. PSYCHOSOCIAL
#) GROUPS/MILIEU:  
The patient was encouraged to participate in the various groups 
and milieu therapy opportunities offered by the unit. The 
patient often attended these groups that focused on teaching 
patients various coping skills. He interacted appropriately 
with staff and other patients on the unit.

#) COLLATERAL INFORMATION AND  FAMILY INVOLVEMENT
Treatment team communicated with patient's mother regarding his 
hospital course, and meeting was held with patient and his 
mother on the day of discharge. Team also communicated with his 
outpatient therapist in ___, Dr. ___ hospital course 
and follow-up plan.

#) INTERVENTIONS
- Medications: bupropion SR 100mg BID, hydroxyzine 25mg PRN
- Psychotherapeutic Interventions: Individual, group, and milieu 
therapy.
- Coordination of aftercare: SW coordinated referral to 
___ in ___, ___. Patient's therapist, Dr. 
___, planning to refer him to psychiatrist in the ___ area 
upon his return. Patient had follow-up appointments with Dr. 
___ and with his PCP in place at the time of discharge.
- Guardianships: N/A

INFORMED CONSENT: The team discussed the indications for, 
intended benefits of, and possible side effects and risks of 
starting bupropion, and risks and benefits of possible 
alternatives, including not taking the medication, with this 
patient. We discussed the patient's right to decide whether to 
take this medication as well as the importance of the patient's 
actively participating in the treatment and discussing any 
questions about medications with the treatment team. The patient 

appeared able to understand and consented to begin the 
medication.

RISK ASSESSMENT & PROGNOSIS

On presentation, the patient was evaluated and felt to be at an 
increased risk of harm to himself based upon her report of 
active SI with a plan. His static factors noted at that time 
include male sex and Caucasian race. The modifiable risk factors 
were also addressed at that time with pharmacological and 
therapeutic intervention, and included suicidal ideation, 
hopelessness, limited nearby social supports, and substance use. 
Finally, the patient is being discharged with many protective 
risk factors, including future-oriented thinking, lack of 
suicidal or homicidal ideation, strong family support, 
help-seeking behavior, engagement with treatment and willingness 
to take medications. Overall, the patient is not at an acutely 
elevated risk of self-harm nor danger to others due to acutely 
decompensated psychiatric illness. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. FLUoxetine 40 mg PO DAILY 

 
Discharge Medications:
1.  BuPROPion (Sustained Release) 100 mg PO BID 
RX *bupropion HCl 100 mg 1 tablet(s) by mouth two times per day 
Disp #*30 Tablet Refills:*0 
2.  HydrOXYzine 25 mg PO BID:PRN anxiety, insomnia 
RX *hydroxyzine HCl 25 mg 1 tablet(s) by mouth two times per day 
Disp #*30 Tablet Refills:*0 
3.  Nicotine Polacrilex 1 STCK PO Q1H:PRN nicotine cravings  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Major Depressive Disorder, Recurrent, Severe

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___